US08802688B2
Step 1. tert-butyl 9-oxo-3-azaspiro[5.5]undec-7-ene-3-carboxylate
Methyl vinyl ketone (146 mL, 1.78 mol) was added to a solution of tert-butyl 4-formylpiperidine-1-carboxylate (375 g, 1.76 mol) in tetrahydrofuran (18 L). The reaction mixture was cooled to −5° C. and a solution of potassium hydroxide in ethanol (3N, 0.243 L) was added dropwise over 10 minutes. The reaction mixture was allowed to warm to room temperature and stirred for 16 hours. Cyclohexane (10 L) was added and the solution was washed with saturated sodium chloride (3×10 L). The organic layer was concentrated to an oil. This oil was dissolved in 2 L of 80:20 cyclohexane/ethyl acetate and filtered through Celite® to remove the insoluble material. The filtrate was purified via flash column chromatography (30% ethyl acetate/hexanes) to afford the product as an oil. The oil was triturated in hexanes to afford the title compound as a colorless solid (131 g, 28%).

reactant | Methyl vinyl ketone | 1.78 mol, 146 mL | C(=C)C(=O)C | C4H6O
reactant | tert-butyl 4-formylpiperidine-1-carboxylate | 1.76 mol, 375 g | C(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C11H19NO3
reactant | potassium hydroxide | [OH-].[K+]
reactant | Cyclohexane | 10 L | C1CCCCC1 | C6H12
solvent | tetrahydrofuran | 18 L | O1CCCC1 | C4H8O
solvent | ethanol | 3N, 0.243 L | C(C)O | C2H6O
product | tert-butyl 9-oxo-3-azaspiro[5.5]undec-7-ene-3-carboxylate | O=C1C=CC2(CCN(CC2)C(=O)OC(C)(C)C)CC1 | C15H23NO3
